US05569655
To a mixture of 12.7 g (0.099 mol) of 2-thienylcarboxylic acid, 8.33 g (0.099 mol) of thiophene, and 34.9 ml of Amberlyst-15 in 250 ml of nitromethane was added 34.9 ml (0.247 mol) of trifluoroacetic acid at room temperature and stirred for 14 h. The reaction mixture was filtered, the filtrate was concentrated in vacuo, and a green oil residue was chromatographed on silica (hexane/methylene chloride 1:1) to afford 8 g (41.6%) of di-(2-thienyl)ketone, as white needles.

reactant | 2-thienylcarboxylic acid | 0.099 mol, 12.7 g | S1C(=CC=C1)C(=O)O | C5H4O2S
reactant | thiophene | 0.099 mol, 8.33 g | S1C=CC=C1 | C4H4S
reactant | trifluoroacetic acid | 0.247 mol, 34.9 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | nitromethane | 250 ml | [N+](=O)([O-])C | CH3NO2
product | di-(2-thienyl)ketone | 8 g, 41.6% | S1C(=CC=C1)C(=O)C=1SC=CC1 | C9H6OS2
